** sch_path: /home/ee431/workspace/EE431_FinalProj/DFFRN.sch

x1 PHIA PHIB D Q RST_N VP VN DFFRN

.subckt DFFRN PHIA PHIB D Q RST_N VP VN
*.opin Q
*.ipin D
*.ipin VN
*.ipin RST_N
*.ipin VP
*.ipin PHIB
*.ipin PHIA
x1 D net5 VP VN inverter
x2 net3 net5 PHIB PHIB_N VP VN TGATE
x3 net3 net4 VP VN inverter
x4 net4 net2 PHIA PHIA_N VP VN TGATE
x6 net1 Q VP VN inverter
x7 net1 net2 PHIA_N PHIA VP VN tristate_inv
x8 net4 RST_N net3 PHIB_N PHIB VP VN tristate_NAND2
x10 VP net1 net2 RST_N VN NAND2
x5 PHIA PHIA_N VP VN inverter
x9 PHIB PHIB_N VP VN inverter
.ends

* expanding   symbol:  /home/ee431/workspace/EE431_FinalProj/inverter.sym # of pins=4
** sym_path: /home/ee431/workspace/EE431_FinalProj/inverter.sym
** sch_path: /home/ee431/workspace/EE431_FinalProj/inverter.sch
.subckt inverter A Y VP VN
*.ipin A
*.opin Y
*.iopin VP
*.iopin VN
XM1 Y A VP VP sky130_fd_pr__pfet_01v8 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y A VN VN sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /home/ee431/workspace/EE431_FinalProj/TGATE.sym # of pins=6
** sym_path: /home/ee431/workspace/EE431_FinalProj/TGATE.sym
** sch_path: /home/ee431/workspace/EE431_FinalProj/TGATE.sch
.subckt TGATE A Y EN EN_N VP VN
*.iopin A
*.iopin Y
*.ipin EN
*.ipin EN_N
*.ipin VP
*.ipin VN
XM5 A EN Y VN sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM6 A EN_N Y VP sky130_fd_pr__pfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /home/ee431/workspace/EE431_FinalProj/tristate_inv.sym # of pins=6
** sym_path: /home/ee431/workspace/EE431_FinalProj/tristate_inv.sym
** sch_path: /home/ee431/workspace/EE431_FinalProj/tristate_inv.sch
.subckt tristate_inv A Y EN EN_N VP VN
*.ipin A
*.opin Y
*.ipin VP
*.ipin VN
*.ipin EN_N
*.ipin EN
XM1 net2 A VP VP sky130_fd_pr__pfet_01v8 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A VN VN sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM3 Y EN net1 VN sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 Y EN_N net2 VP sky130_fd_pr__pfet_01v8 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /home/ee431/workspace/EE431_FinalProj/tristate_NAND2.sym # of pins=7
** sym_path: /home/ee431/workspace/EE431_FinalProj/tristate_NAND2.sym
** sch_path: /home/ee431/workspace/EE431_FinalProj/tristate_NAND2.sch
.subckt tristate_NAND2 A B Y EN EN_N VDD GND
*.ipin A
*.ipin B
*.ipin VDD
*.ipin GND
*.opin Y
*.ipin EN
*.ipin EN_N
XM1 net2 B VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 net2 A VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM3 net3 A net1 GND sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 B GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM5 Y EN_N net2 VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM6 Y EN net3 GND sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /home/ee431/workspace/EE431_FinalProj/NAND2.sym # of pins=5
** sym_path: /home/ee431/workspace/EE431_FinalProj/NAND2.sym
** sch_path: /home/ee431/workspace/EE431_FinalProj/NAND2.sch
.subckt NAND2 VDD Y A B GND
*.ipin A
*.ipin B
*.ipin VDD
*.ipin GND
*.opin Y
XM1 Y B VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y A VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM3 Y A net1 GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 B GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends

.end
